US08357688B2
To a mixed liquid of 4.83 g of methyl 2-methoxy-7-methyl-3-[2-(tetrahydro-2H-pyran-4-ylcarbonyl)hydrazino]quinoxaline-6-carboxylate and 96.6 mL of tetrahydrofuran were added 2 drops of N,N-dimethylformamide and 1.90 mL of thionyl chloride at room temperature, followed by stirring at 70° C. overnight. The reaction liquid was diluted with chloroform and added to ice-water portionwise, followed by stirring for 10 minutes. The obtained solid was collected by filtration and washed with diethyl ether to obtain 1.94 g of methyl 7-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-8-carboxylate as a pale yellow solid.

reactant | methyl 2-methoxy-7-methyl-3-[2-(tetrahydro-2H-pyran-4-ylcarbonyl)hydrazino]quinoxaline-6-carboxylate | 4.83 g | COC1=NC2=CC(=C(C=C2N=C1NNC(=O)C1CCOCC1)C(=O)OC)C | C18H22N4O5
reactant | tetrahydrofuran | 96.6 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 1.90 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 7-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-8-carboxylate | 1.94 g | CC=1C=C2NC(C=3N(C2=CC1C(=O)OC)C(=NN3)C3CCOCC3)=O | C17H18N4O4
